US06897231B2
E. 3-(2-Methoxyphenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile
To a solution of 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (0.600 g, 1.96 mmol), in ethylene glycol dimethyl ether (20 mL) was added 2-methoxyphenyl boronic acid (0.447 g, 2.94 mmol), [1,1′-bis(diphenylphosphino)-ferrocene] complex with dichloromethane (1:1) (0.226 g, 0.196 mmol) and potassium phosphate (2.07 g, 9.8 mmol). The reaction mixture was heated to reflux temperature for 12 hours. The solvent was then evaporated to dryness and the residue was dissolved in 20 mL of ethyl acetate. The heterogeneous solution was washed 3 times with 10 mL of water and once with 10 mL of brine. The organic layer was dried over Na2SO4 and evaporated to dryness. The resulting brown solid was adsorbed on silica gel and purified by column chromatography (85:15 hexanes/ethyl acetate) to provide the title compound (0.539 g, 82.5% yield): ES-MS (m/z) 334 [M+1]+.

reactant | 3-bromo-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 1.96 mmol, 0.600 g | BrC1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C13H12BrN3O
reactant | 2-methoxyphenyl boronic acid | 2.94 mmol, 0.447 g | COC1=C(C=CC=C1)B(O)O | C7H9BO3
reactant | dichloromethane | 0.196 mmol, 0.226 g | ClCCl | CH2Cl2
reactant | potassium phosphate | 9.8 mmol, 2.07 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | ethylene glycol dimethyl ether | 20 mL | COCCOC | C4H10O2
catalyst | 1,1′-bis(diphenylphosphino)-ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 3-(2-Methoxyphenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 0.539 g, 82.5% yield | COC1=C(C=CC=C1)C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C20H19N3O2
